US09212187B2
Synthesis of 3-bromoquinolin-4-ol
N-Bromosuccinimide(1.3 g) was added to a DMF solution (15 ml) of 4-hydroxy quinoline(1.0 g) and the mixture was stirred at room temperature for 15 hours. A sodium hydrogencarbonate aqueous solution of 25% sodium sulfite was added to the mixture. The mixture was stirred and the precipitated insoluble matter was separated. The filtrate was dissolved in a mixture of ethyl acetate and methanol, and an insoluble matter was removed by filtration. The filtrate was condensed under reduced pressure, and the residue was washed with ethyl acetate and dried to give the title compound(1.1 g) as a white powder.

reactant | N-Bromosuccinimide | 1.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-hydroxy quinoline | 1.0 g | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-bromoquinolin-4-ol | 1.1 g | BrC=1C=NC2=CC=CC=C2C1O | C9H6BrNO
